US05034492
A polymerization inhibitor, p-methoxyphenol (1.24 g; 0.01 mole), was added to a mixture of 152 g (1.0 mole) of p-(chloromethyl)styrene, 60 g (1.5 moles) of sodium hydroxide and 0.5 liter of tetrahydrofuran. The resulting mixture was boiled, and 78 g (1.0 mole) of 2-mercaptoethanol was added dropwise over 0.5 hour. The boiling was continued for 3 hours. After cooling to room temperature, the reaction mixture was filtered by the same operation as in Example 1, and distilled under reduced pressure (140-145 ° C./1-2 mmHg) to give 93 g of 2-(4-vinylbenzylthio)ethanol as a white solid.

reactant | p-(chloromethyl)styrene | 1.0 mole, 152 g | ClCC1=CC=C(C=C)C=C1 | C9H9Cl
reactant | sodium hydroxide | 1.5 moles, 60 g | [OH-].[Na+]
reactant | 2-mercaptoethanol | 1.0 mole, 78 g | SCCO | C2H6OS
catalyst | p-methoxyphenol | 0.01 mole, 1.24 g | COC1=CC=C(C=C1)O | C7H8O2
solvent | tetrahydrofuran | 0.5 liter | O1CCCC1 | C4H8O
product | 2-(4-vinylbenzylthio)ethanol | 93 g | C(=C)C1=CC=C(CSCCO)C=C1 | C11H14OS
